US09428465B2
Step 3. N-hexyl-5-(4-methoxyphenyl)-2,4-dioxo-pyrimidine-1-carboxamide
The title compound was obtained according to the procedure described for the synthesis of Example 6, starting from 5-(4-methoxyphenyl)-1H-pyrimidine-2,4-dione (0.06 g, 0.27 mmol); 5.4 equivalents of hexyl isocyanate were used herein, splitted into three aliquots (1.8 equiv each) and the reaction mixture was heated under microwave irradiation to 100° C. for 1 hr (3 cycles of 20 min each). The crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 80:20) to afford the title compound (0.02 g, 17% over two steps) as white powder. 1H NMR (400 MHz, CDCl3) δ 0.90 (d, J=6.8 Hz, 3H), 1.29-1.43 (m, 6H), 1.58-1.67 (m, 2H), 3.41 (td, J=7.1, 5.5 Hz, 2H), 3.83 (s, 3H), 6.89-7.00 (m, 2H), 7.41-7.57 (m, 2H), 8.46 (s, 1H), 8.51 (s, 1H), 9.11 (t, J=5.5 Hz, 1H). 13C NMR (101 MHz, CDCl3) δ 14.63, 22.47, 26.85, 29.26, 31.63, 41.34, 55.37, 11414, 116.32, 123.66, 129.39, 134.34, 149.83, 150.71, 159.87, 161.58.

reactant | 5-(4-methoxyphenyl)-1H-pyrimidine-2,4-dione | 0.27 mmol, 0.06 g | COC1=CC=C(C=C1)C=1C(NC(NC1)=O)=O | C11H10N2O3
reactant | hexyl isocyanate | 5.4 equivalents | C(CCCCC)N=C=O | C7H13NO
product | N-hexyl-5-(4-methoxyphenyl)-2,4-dioxo-pyrimidine-1-carboxamide | 0.02 g, 17% | C(CCCCC)NC(=O)N1C(NC(C(=C1)C1=CC=C(C=C1)OC)=O)=O | C18H23N3O4
